US07863288B2
Step 2—Preparation of 3-(3-nitro-benzyl)-5-pyridin-3-yl-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (552)
To 3-(3-nitro-benzyl)-5-pyridin-3-yl-1H-pyrrolo[2,3-b]pyridine (P-1402, 141 mg, 0.43 mmol) in N,N-dimethylformamide (3 mL) was added sodium hydride (60% dispersion in mineral oil, 21 mg, 0.512 mmol) under an atmosphere of nitrogen. After thirty minutes, p-toluenesulfonyl chloride (114 mg, 0.60 mmol) in N,N-dimethyl-formamide was added and the reaction was stirred for three hours. The reaction was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. All solids were filtered and purified by silica gel column chromatography eluting with 40% ethyl acetate in hexane to give the compound (552, 120 mg, 58%). MS (ESI) [M+H+]+=485.25.

reactant | 3-(3-nitro-benzyl)-5-pyridin-3-yl-1H-pyrrolo[2,3-b]pyridine | 0.43 mmol, 141 mg | [N+](=O)([O-])C=1C=C(CC2=CNC3=NC=C(C=C32)C=3C=NC=CC3)C=CC1 | C19H14N4O2
reactant | sodium hydride | 0.512 mmol, 21 mg | [H-].[Na+]
reactant | p-toluenesulfonyl chloride | 0.60 mmol, 114 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-(3-nitro-benzyl)-5-pyridin-3-yl-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | [N+](=O)([O-])C=1C=C(CC2=CN(C3=NC=C(C=C32)C=3C=NC=CC3)S(=O)(=O)C3=CC=C(C=C3)C)C=CC1 | C26H20N4O4S
